US05296602
A solution of 2-methoxymethoxymethyl-1-nitro-3,4,5-trimethoxy-benzene (6.03 g, 21 mmol) in ethanol (150 ml) was catalytically hydrogenated over 5% palladium on carbon (3 g) at 50 psi for 2 hours. The catalyst was removed by filtration through a pad of Celite, and the filtered catalyst was washed with ethanol. The combined filtrate and the washings are concentrated in vacuo to dryness, and the product was purified by column chromatography (SiO2, 4×25 cm, CHCl3) to give 4.82 g of 2-methoxymethoxymethyl-3,4,5-trimethoxyaniline (89.7%) as a syrup. 1H-NMR (CDCL3): δ3.42 (3H, s, CH2OMe), 3.77, 3.80, and 3.87 (each 3H, s, 3×OMe), 4.63 and 4.66 (each 2H, s, 2×CH2), 6.05 (1H, s, H-6). Analyses: Calculated for C12H19NO5 : C, 56.02; H, 7.44; N, 5.44. Found: C, 56.47; H, 7.05; N, 5.48.

reactant | 2-methoxymethoxymethyl-1-nitro-3,4,5-trimethoxy-benzene | 21 mmol, 6.03 g | COCOCC1=C(C=C(C(=C1OC)OC)OC)[N+](=O)[O-] | C12H17NO7
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | 2-methoxymethoxymethyl-3,4,5-trimethoxyaniline | 4.82 g, 89.7% | COCOCC1=C(N)C=C(C(=C1OC)OC)OC | C12H19NO5
